Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abd pain/bloating
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Mr. ___ is a ___ male with history of metastatic 
cholangiocarcinoma (Klatskin's tumor - occurring at the 
confluence of the right and left hepatic bile ducts) with 
peritoneal carcinomatosis and possible concurrent pancreatic 
cancer with course complicated by cholangitis s/p placement of 
multiple (5) biliary drains and hepatic duct placement, 
subphrenic Klebsiella infection, pleural effusion s/p VATS 
decortication, PVT on enoxaparin, with recent admission for C 
Diff and SBO ___ carcinomatosis started on gemcitabine/cisplatin 
who presents with abdominal pain and distention with imaging 
concerning for recurrent bowel obstruction

The patient had a recent admission in ___ following 
cholangiogram/PTC exchange on ___. He was subsequently found 
to have several days of diarrhea and abd pain, and eventually 
was found to be C Diff positive and started on vanc/flagyl. He 
as also noted to have partial SBO on CT ___ carcinomatosis and 
was started on gemcitabine/cisplatin with first dose ___ as an 
inpatient and C1D8 on ___ as an outpatient.

Since that time, he developed worsening abdominal pain and 
bloating on ___. Since that time he has passed a small amount 
of flatus but has not had BM since ___ and has had poor 
appetite with nausea.

He was seen in clinic on ___ by Dr. ___. At that time, he 
had abdominal distention and nausea with 3 days of escalating 
bloating. His last BM was 1 day ago, and last urination was 1 
day ago. He was passing occasional gas. He denied fevers, 
chills, sweats, melena, hematuria, BRBPR, but was bed bound with 
fatigue. He was thirsty but not hungry. A CT A/P w/ contrast was 
ordered and was notable for bowel obstruction. He was given 2 L 
fluids, morphine, and zofran. He was then admitted to the 
oncology service for further management.

On arrival to the floor, the patient notes continued abdominal 
pain and distention with poor appetite and some thirst. Notes 
that he is occasionally passing gas but has not had BM or 
urinated today. Denies fevers, chills. Notes some nausea and 
vomiting.

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.  
 
PAST ONCOLOGIC HISTORY:
Initially presented to OSH in ___ where he was
for business, after he developed abdominal pain. During that
hospitalization he reports that he had a CT scan that
demonstrated malignancy in his abdomen. They initially planned
for primary surgical resection; however upon initiation of
surgery discovered peritoneal carcinomatosis and terminated
surgery at that time. He subsequently had percutaneous biliary
drainage to the right and left lobes as well as a third drain
placed subhepatically into the common bile duct.  A stent was
placed into the hepatic duct.  He was discharged from the
hospital in ___ in on ___ and return home to
___.

He made an appointment to be seen at ___; however he developed
severe weakness and malaise so presented to ___ emergency department on ___.

___ MRCP revealed infiltrating lesion in the junction of
the left and right lobes of the liver measuring 4 x 2.6 cm.  
When
compared to previous image from ___ there was market
decrease in dilation of the intrahepatic bile ducts however
enlargement was still present.  Additionally noted was a 3.6 x
2.6 cm lesion arising at the junction of the tail of the 
pancreas
and the spleen.

___: Represented to ___ ER with
several hours of acute onset abdominal pain with fevers and
rigors concerning for ascending cholangitis.  Percutaneous
biliary drainage of the right hepatic duct performed with
cultures positive for Enterobacter Klebsiella and E. coli.

___: Large right sided subphrenic fluid collection
concerning for biloma was aspirated and grew ESBL Klebsiella
pneumoniae.

___: chest x-ray demonstrated large right pleural effusion
and ultrasound-guided thoracentesis was performed

___: Chest tube placed on the right side

___: Transferred to ___ where he had a right VATS
decortication.  Antibiotic therapy with vancomycin and meropenem
was initiated and continued through ___ for treatment of
ascending cholangitis.

___: CT scan revealed portal vein thrombus.  Patient
initially started on heparin drip and transitioned to Lovenox 60
mg twice daily on discharge.

___: PEG tube placed for nutritional support.  Patient on
tube feeds and liquid diet from that point forward.

___: Received cycle 1 day 1 of gemcitabine (800mg/m2) and
oxaliplatin (100mg/m2)

___: Patient was discharged from ___ to home with services
and follow-up was established with ___ oncology per patient's
insurance.  At time of discharge he had 5 drains in place.
-___ biloma drain
-___ anterior internal/external biliary drain
-OSH ___ right posterior external biliary drain
-___ internal/external biliary drain
-OSH RLQ direct CBD drain (of note of note drain stopped putting
out during hospital stay; however was not removed due to concern
that it would impact the ability of the other drains to
appropriately function, team suggested evaluation by
interventional radiology at ___ in the future to discuss
removal)
- ___: CT abdomen with klatskin tumor as well as pancreatic
tail mass and peritoneal deposits. Drains all appear to be
well-placed"

___ noted to have SBO ___ carcinomatosis and new C Diff, 
started on vancomycin and flagyl
___ Received C1D1 gemcitabine/cisplatin
___ C1D8 gemcitabine/cisplatin

 
Past Medical History:
- Metastatic cholangiocarcinoma, with likely second pancreatic
malignancy (awaiting chemo initiation) c/b pleural effusion (s/p
VATS decortication).
- Recent subphrenic ESBL Klebsiella infection (s/p meropenem)
- Recent hospitalization for cholangitis (s/p multiple
percutaneous biliary drains).
- Chronic hepatitis B
- Portal vein thrombosis, with extension to splenic vein, on
lovenox.
- Hypertension
- Tube feeds
- Hemorrhoids

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization. No h/o GI malignancies.
 
Physical Exam:
Admission Exam
GENERAL: NAD, lying in bed
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: slight crackles at the R lung base, breathing comfortably 
without use of accessory muscles  
ABD: abdomen distended and tympanitic with high pitched bowel 
sounds, nontender in all quadrants, no rebound/guarding. 2 bili 
drains in place, bag with bilious drainage, J tube in place
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses 
bilaterally  
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes  
NEURO: Alert, interactive, moving all 4 extremities with 
purpose, face symmetric  
ACCESS: PIVs 

 
Pertinent Results:
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 11:08 AM
PRELIM READ:
1. Small-bowel obstruction with transition point in the pelvis 
at
the site of a metastatic peritoneal deposit. 
2. Stable positioning of internal external biliary drains with
the drain approaching from the right flank terminating within a
right posterior bile duct as on prior. No significant change in
mild intrahepatic biliary dilation in the left lobe of the liver
3. Unchanged 2.7 cm pancreatic tail metastases. Grossly stable
appearance of numerous peritoneal metastatic deposits. 
4. Consolidation in the right lower lobe concerning for
pneumonia. 
5. Unchanged thrombosis of the left portal and splenic veins. 

___ 03:30PM BLOOD WBC-5.4 RBC-2.88* Hgb-8.4* Hct-24.9* 
MCV-87 MCH-29.2 MCHC-33.7 RDW-14.4 RDWSD-44.4 Plt ___
___ 08:33AM BLOOD WBC-16.0* RBC-4.04* Hgb-11.8* Hct-35.5* 
MCV-88 MCH-29.2 MCHC-33.2 RDW-15.5 RDWSD-47.8* Plt ___
___ 03:17AM BLOOD ___ PTT-29.4 ___
___ 03:30PM BLOOD UreaN-19 Creat-0.7 Na-126* K-4.1 Cl-93* 
HCO3-22 AnGap-11
___ 03:17AM BLOOD Glucose-89 UreaN-22* Creat-0.9 Na-132* 
K-5.3 Cl-100 HCO3-20* AnGap-12
___ 03:30PM BLOOD ALT-27 AST-23 LD(LDH)-205 AlkPhos-227* 
TotBili-1.6*
___ 03:17AM BLOOD ALT-9 AST-14 LD(LDH)-186 AlkPhos-103 
TotBili-0.8
___ 03:30PM BLOOD Albumin-3.4* Calcium-8.0* Phos-2.9 Mg-1.9
___ 03:17AM BLOOD Calcium-7.4* Phos-4.4 Mg-1.6
___ 05:18AM BLOOD 25VitD-10*
___ 07:00AM BLOOD 25VitD-9*
___ 11:00AM BLOOD Lactate-0.8
___ 08:49AM BLOOD Lactate-2.7*
 
Brief Hospital Course:
Mr. ___ is a ___ yo man w/ metastatic cholangiocarcinoma s/p 
multiple biliary stents c/b SBOs who presented with worsening 
abdominal pain and distention found to have a recurrence of 
malignant SBO. He was seen by surgery and given his extensive 
carcinomatosis, he was determined not to be a surgical 
candidate. He was treated conservatively with NGT placed to 
suction. A PICC was placed and he was started on TPN for 
nutrition. A J tube was placed for decompression by ___ on ___ 
which was complicated by post-procedural hypotension. He was 
given IVF x 4 L with persistent hypotension to ___. KUB was 
concerning for bowel perforation given presence of free air out 
of proportion to what would be expected post-procedure. Given 
his worsening clinical status, he was initially made DNR/DNI 
after discussion with the patient but after discussing further 
with his family this was reversed to full code. He was 
transferred to the ICU for persistent hypotension requiring 
pressors. While there he was treated empirically for septic 
shock with IV LR x 1L, vancomycin, cefepime, metronidazole for 
broad coverage including anaerobes given potential biliary 
source. Micafungin was added given sepsis and increased risk for 
fungal infection with TPN. A RLL consolidation was seen on CT 
with R basilar crackles although he had no significant 
respiratory symptoms. CT also confirmed presence of perforated 
hollow viscous. The patient was seen by surgery who did not 
recommend surgical intervention. A family meeting was held with 
a ___ interpreter and his oncologist, Dr. ___, to 
explain the grim prognosis and he was switched to comfort 
measures on ___. The patient was subsequently transferred to 
medicine service ___ to pursue inpatient hospice given his 
precarious situation. Initially on a PCA, he was switched to a 
morphine drip by ___. He died comfortably around 2am on ___ 
with family at bedside. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 12.5 mg PO DAILY 
2. Enoxaparin Sodium 100 mg SC DAILY 
3. Entecavir 0.5 mg PO DAILY 
4. Esomeprazole 40 mg  Other DAILY 
5. Mirtazapine 15 mg PO QHS 
6. Witch ___ 50% Pad ___SDIR 
7. Simethicone 80 mg PO QID 
8. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral BID 
9. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
10. Prochlorperazine 10 mg PO BID:PRN Nausea/Vomiting - Second 
Line NOT relieved by Ondansetron 
11. TwoCal HN (nut.tx,spec.frm,l-fr,iron-fos) ___ 
gram-kcal/mL oral QID 

 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Metastatic cholangiocarcinoma
Perforated bowel

 
Discharge Condition:
Deceased

 
Discharge Instructions:
N/A
 
Followup Instructions:
___